US04592866
4-Benzyl-2-(2-chloroethyl)-2,3-dihydro-1,4-benzoxazepin-5(4H)-one
To 85.7 g (0.29 mole) of 2-[(1-benzyl-3-pyrrolidinyl)oxy]-benzoic acid was added 150 ml of thionyl chloride. The solution stood for 15 min and was then refluxed 30 min. and concentrated in vacuo. The residue was twice treated with 250 ml of chloroform and concentrated in vacuo. The residue was dissolved in 500 ml of chloroform and 101 g (1 mole) of triethylamine added slowly with stirring. The solution was refluxed 1 hr. and concentrated in vacuo. The residue was partitioned between 50% ethyl acetate--50% isopropyl ether and dilute hydrochloric acid. The organic layer was washed with dilute sodium hydroxide and concentrated. The residue was crystallized 5 times from isopropyl ether-ethyl acetate. Yield of product was 23.8 g (26%), m.p. 145.0°-147° C.

reactant | 2-[(1-benzyl-3-pyrrolidinyl)oxy]-benzoic acid | 0.29 mole, 85.7 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=C(C(=O)O)C=CC=C1 | C18H19NO3
reactant | triethylamine | 1 mole, 101 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Benzyl-2-(2-chloroethyl)-2,3-dihydro-1,4-benzoxazepin-5(4H)-one | C(C1=CC=CC=C1)N1CC(OC2=C(C1=O)C=CC=C2)CCCl | C18H18ClNO2
